.Subckt R+Current_noise_dB R+ R- R=1K Vn_dB=-15 Cp=0.1p
.param IonVV=1750u*(10**(Vn_dB/20))**2
CR1 R+ Test {Cp} Rpar={R}
B1 N003 N001 I=v(R+,test)**2*IonVV
B2 Test R- V=I(VAnoise)
VAnoise N002 0 0
Q1 0 N002 N003 0 NPNn
Q2 0 N002 N001 0 PNPn
.MODEL pnpn pnp is=1f  bf=1 af=1 kf=1n 
.MODEL npnn npn is=1f  bf=1 af=1 kf=1n
.ends 

.Subckt R+Current_noise R+ R- R=1K Vn=1 Cp=0.1p
.param IonVV=1750u*Vn**2
CR1 R+ Test {Cp} Rpar={R} 
B1 N003 N001 I=v(R+,R-)**2*IonVV
B2 Test R- V=I(VAnoise)
*b3 R R- v=v(vn)
VAnoise N002 0 0
Q1 0 N002 N003 0 NPNn
Q2 0 N002 N001 0 PNPn
.MODEL pnpn pnp is=0.001f  bf=1 af=1 kf=1n 
.MODEL npnn npn is=0.001f  bf=1 af=1 kf=1n 
*RN  vn 0 {R} noiseless
.ends 
